US06518257B1
(ii) Production of [4′-[1-hydroxy-(1H-imidazol-4-yl)propyl]-N-methyl[1,1′-biphenyl]-3-carboxamide
By the reaction in the same manner as in Example 41-(ii) using [4′-[1-hydroxy-(1-trityl-1H-imidazol-4-yl)propyl]-N-methyl[1,1′-biphenyl]-3-carboxamide (1.29 g), 10% palladium carbon (1.29 g)and 1N hydrochloric acid (2.23 ml), the colorless amorphous title compound (540 mg) was obtained.

reactant | 4′-[1-hydroxy-(1-trityl-1H-imidazol-4-yl)propyl]-N-methyl[1,1′-biphenyl]-3-carboxamide | 1.29 g | OC(CCC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)C1=CC(=CC=C1)C(=O)NC | C39H35N3O2
reactant | hydrochloric acid | 1N, 2.23 ml | Cl | ClH
catalyst | palladium carbon | 1.29 g | [C].[Pd]
product | 4′-[1-hydroxy-(1H-imidazol-4-yl)propyl]-N-methyl[1,1′-biphenyl]-3-carboxamide | 540 mg | OC(CCC=1N=CNC1)C1=CC=C(C=C1)C1=CC(=CC=C1)C(=O)NC | C20H21N3O2
